US08222219B2
A solution of the above 6-chlorobenzo[b]thiophen-2-ylcarboxylic acid (3.0 g) and copper powder (1.2 g) in quinoline (20 ml) was stirred at 210° C. for 40 minutes. The mixture was cooled to room temperature and diluted with diethyl ether, and insoluble materials were filtered off. The filtrate was washed successively with 10% aqueous hydrochloric acid solution and brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane) to give 6-chlorobenzo[b]thiophene (1.79 g) as colorless crystals. (3) The above 6-chlorobenzo[b]thiophene and 5-bromo-2-chlorobenzaldehyde obtained in Reference Example 16-(1) were treated in a manner similar to Reference Example 7 to give 5-bromo-2-chloro-1-(6-chlorobenzo[b]thiophen-2-ylmethyl)benzene as colorless crystals.

reactant | 6-chlorobenzo[b]thiophene | ClC=1C=CC2=C(SC=C2)C1 | C8H5ClS
reactant | 5-bromo-2-chlorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)Cl | C7H4BrClO
product | 5-bromo-2-chloro-1-(6-chlorobenzo[b]thiophen-2-ylmethyl)benzene | BrC=1C=CC(=C(C1)CC1=CC2=C(S1)C=C(C=C2)Cl)Cl | C15H9BrCl2S
